2144-10-03 11:56:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory distress, cellulitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   65yo F with h/o sleep apnea and possible asthma, restrictive lung
   disease [**1-20**] obesity and recurrent panniculitis who initially presented
   with panniculitis and then developed hypercarbic and hypoxemic
   respiratory failure.  Now improved on intermittent PAP.
   24 Hour Events:
 PICC line placed, tolerated PAP overnight
   History obtained from Patient
   Allergies:
   Ciprofloxacin
   Shortness of br
   Cortisporin (Topical) (Neomy Sulf/Polymyx B Sulf/Hc)
   Unknown;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Levofloxacin
   Rash
   eye redne
   Sertraline
   Hives;
   Ceftriaxone
   Rash;
   Adhesive Tape (Topical)
   Unknown; paper
   Keflex (Oral) (Cephalexin Monohydrate)
   Bee Sting Kit
   Anaphylaxis; be
   Last dose of Antibiotics:
   Clindamycin - [**2144-10-2**] 04:55 PM
   Vancomycin - [**2144-10-2**] 08:00 PM
   Azithromycin - [**2144-10-2**] 08:00 PM
   Infusions:
   Heparin Sodium - 1,150 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:  No changes
   Review of systems is unchanged from admission except as noted below
   Review of systems: no changes
   Flowsheet Data as of  [**2144-10-3**] 11:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.8
C (98.3
   HR: 87 (70 - 118) bpm
   BP: 147/93(103) {117/62(81) - 148/99(108)} mmHg
   RR: 20 (15 - 38) insp/min
   SpO2: 84%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  1,607 mL
                                                                  1,098 mL
   PO:
                                                                    720 mL
                                                                    850 mL
   TF:
   IVF:
                                                                    887 mL
                                                                    248 mL
   Blood products:
   Total out:
                                                                  5,520 mL
                                                                  1,690 mL
   Urine:
                                                                  5,520 mL
                                                                  1,690 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,913 mL
                                                                   -592 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 84%
   ABG: ///29/
   Physical Examination
   General Appearance: obese, pleasant in no acute distress
   HEENT: anicteric, mmm,
   Pulm: diminished breath sounds throughout but no wheezing or rhonchi
   Cardiac: III/VI systolic murmur, regular, no gallops or rubs
   Abdomen: obese, soft, non-tender, non-distended
   Ext: no edema
   Skin:  right sided panniculitis with ongoing erythema, but improved
   erythema and improved tenderness
   Neurologic: awake, alert, good attention
   Labs / Radiology
   9.5 g/dL
   206 K/uL
   187 mg/dL
   1.3 mg/dL
   29 mEq/L
   4.8 mEq/L
   33 mg/dL
   98 mEq/L
   137 mEq/L
   30.1 %
   11.7 K/uL
        [image002.jpg]
                            [**2144-10-1**]  02:32 PM
                            [**2144-10-1**]  04:24 PM
                            [**2144-10-1**]  04:40 PM
                            [**2144-10-1**]  06:53 PM
                            [**2144-10-2**]  04:29 AM
                            [**2144-10-2**]  07:44 AM
                            [**2144-10-2**]  08:22 AM
                            [**2144-10-3**]  04:32 AM
   WBC
   10.2
   11.7
   Hct
   35.7
   30.1
   Plt
   160
   206
   Cr
   1.2
   1.3
   1.3
   TropT
   0.02
   TCO2
   27
   26
   26
   30
   29
   Glucose
   [**Telephone/Fax (3) 10597**]
   Other labs: PT / PTT / INR:31.3/74.4/3.1, CK / CKMB /
   Troponin-T:217/5/0.02, Differential-Neuts:88.1 %, Lymph:7.0 %, Mono:4.5
   %, Eos:0.4 %, Lactic Acid:0.9 mmol/L, Ca++:8.5 mg/dL, Mg++:1.8 mg/dL,
   PO4:4.1 mg/dL
   Assessment and Plan
 Hypoxemic/Hypercarbic Respiratory Failure
   - hypercarbia improved, no evidence of ongoing asthma flare
   - back on home [**Last Name (LF) **], [**First Name3 (LF) 178**] make nebs prn
   - hypoxemia improved with diuresis
   - on azithromycin course for possible atypical pneumonia
   - now therapeutic INR > 24 hours so stopping heparin gtt
 Panniculitis
   - continues on vancomycin, s/p clindamycin
   - ID following, PICC in place
   - vanc level this afternoon prior to repeat dosing
 Volume overload
   - self-diuresing and looking more euvolemic
 Anemia:
   - will re-check CBC this afternoon, has had hematuria
   - guaiac stools
   - goal crit > 21 unless acutely dropping significantly
   ICU Care
   Nutrition:
   Comments: cardiac diabetic diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2144-10-2**] 10:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: H2 blocker, PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes